### PR TITLE
[Merged by Bors] - feat(InformationTheory): define the Kullback-Leibler divergence between two finite measures

### PR DESCRIPTION
**Pull request by RemyDegenne**
From the TestingLowerBounds project.
Co-authored-by: Lorenzo Luccioli

---

- [x] depends on: #21063
- [x] depends on: #21092
- [x] depends on: #21093
- [x] depends on: #21901

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/InformationTheory/KullbackLeibler/Basic.lean [hunk 1]
```diff
@@ -0,0 +1,237 @@
...
+  rotate_left
+  · exact Measurable.aestronglyMeasurable (by fun_prop)
+  · exact ae_of_all _ fun _ ↦ klFun_nonneg ENNReal.toReal_nonneg
+  by_cases h_int : Integrable (llr μ ν) μ
+  · simp only [hμν, h_int, and_self, ↓reduceIte]
+    rw [ofReal_integral_eq_lintegral_ofReal]
+    · rwa [integrable_klFun_rnDeriv_iff hμν]
+    · exact ae_of_all _ fun _ ↦ klFun_nonneg ENNReal.toReal_nonneg
+  · rw [← not_iff_not] at h_int_iff
+    simp only [ne_eq, Decidable.not_not] at h_int_iff
```
Comment (EtienneC30) [inline Mathlib/InformationTheory/KullbackLeibler/Basic.lean:122]: You can put the `simp` in the `rw` here.
```suggestion
  · rw [← not_iff_not, ne_eq, Decidable.not_not] at h_int_iff
```

File: Mathlib/InformationTheory/KullbackLeibler/Basic.lean [hunk 2]
```diff
@@ -0,0 +1,237 @@
...
+
+lemma toReal_kl (h : μ ≪ ν) (h_int : Integrable (llr μ ν) μ) :
+    (kl μ ν).toReal = ∫ a, llr μ ν a ∂μ + (ν univ).toReal - (μ univ).toReal := by
+  rw [kl_of_ac_of_integrable h h_int, ENNReal.toReal_ofReal]
+  exact integral_llr_add_sub_measure_univ_nonneg h h_int
+
+/-- If `μ ≪ ν` and `μ univ = ν univ`, then `toReal` of the Kullback-Leibler divergence is equal to
+an integral, without any integrability condition. -/
+lemma toReal_kl_of_measure_eq (h : μ ≪ ν) (h_eq : μ univ = ν univ) :
+    (kl μ ν).toReal = ∫ a, llr μ ν a ∂μ := by
```
Comment (EtienneC30) [inline Mathlib/InformationTheory/KullbackLeibler/Basic.lean:149]: Can't you drop the absolute continuity assumption as well here? If $\mu$ is not absolutely continuous with respect to $\nu$, then their `rnDeriv` is 0, so the `llr` is also 0?

File: Mathlib/InformationTheory/KullbackLeibler/Basic.lean [hunk 3]
```diff
@@ -0,0 +1,237 @@
...
+  by_cases h_int : Integrable (llr μ ν) μ
+  · simp [toReal_kl h h_int, h_eq]
+  · rw [kl_of_not_integrable h_int, integral_undef h_int]
+    simp [h_eq]
```
Comment (EtienneC30) [inline Mathlib/InformationTheory/KullbackLeibler/Basic.lean:153]: The `h_eq` in the `simp` does not do anything.
```suggestion
  · rw [kl_of_not_integrable h_int, integral_undef h_int, ENNReal.top_toReal]
```

File: Mathlib/InformationTheory/KullbackLeibler/Basic.lean [hunk 4]
```diff
@@ -0,0 +1,237 @@
...
+
+lemma toReal_kl_eq_integral_klFun (h : μ ≪ ν) (h_int : Integrable (llr μ ν) μ) :
+    (kl μ ν).toReal = ∫ x, klFun (μ.rnDeriv ν x).toReal ∂ν := by
```
Comment (EtienneC30) [inline Mathlib/InformationTheory/KullbackLeibler/Basic.lean:156]: Can't you drop integrability here as well?

File: Mathlib/InformationTheory/KullbackLeibler/Basic.lean [hunk 5]
```diff
@@ -0,0 +1,237 @@
...
+  rw [kl_eq_integral_klFun, if_pos ⟨h, h_int⟩, ENNReal.toReal_ofReal]
+  exact integral_nonneg (fun _ ↦ klFun_nonneg ENNReal.toReal_nonneg)
```
Comment (EtienneC30) [inline Mathlib/InformationTheory/KullbackLeibler/Basic.lean:158]: Parentheses are not needed, as you prefer.
```suggestion
  exact integral_nonneg fun _ ↦ klFun_nonneg ENNReal.toReal_nonneg
```

File: Mathlib/InformationTheory/KullbackLeibler/Basic.lean [hunk 6]
```diff
@@ -0,0 +1,237 @@
...
+
+/-- **Converse Gibbs' inequality**: the Kullback-Leibler divergence between two finite measures is
+zero if and only if the two measures are equal. -/
+lemma kl_eq_zero_iff [IsFiniteMeasure μ] [IsFiniteMeasure ν] :
+    kl μ ν = 0 ↔ μ = ν := by
+  refine ⟨fun h ↦ ?_, fun h ↦ h ▸ kl_self _⟩
+  have h_ne : kl μ ν ≠ ⊤ := by simp [h]
+  rw [kl_ne_top_iff] at h_ne
+  simp only [kl_eq_lintegral_klFun, h_ne.1, ↓reduceIte] at h
+  rw [lintegral_eq_zero_iff (by fun_prop)] at h
```
Comment (EtienneC30) [inline Mathlib/InformationTheory/KullbackLeibler/Basic.lean:230]: This `simp` can go in the `rw`.
```suggestion
  rw [kl_eq_lintegral_klFun, if_pos h_ne.1, lintegral_eq_zero_iff (by fun_prop)] at h
```

**Review by EtienneC30 — COMMENTED** [review]
That's great, thanks!

File: Mathlib/InformationTheory/KullbackLeibler/Basic.lean (hunk 2 above)
Comment (RemyDegenne) [reply Mathlib/InformationTheory/KullbackLeibler/Basic.lean:148]: `rnDeriv μ ν` is defined only `ν`-a.e. . Suppose the two measures are supported on two disjoint sets, µ on A and ν on B. Then on B the rnDeriv is 0, but on A we don't know anything: it's an arbitrary function. Same for the llr, hence the kl may be infinite (by definition) but the llr could be any integrable function with arbitrary integral, since we integrate with respect to µ.

Sor sigma-finite measures, it's possible to make a choice of Radon-Nikodym derivative that would be defined `µ + ν`-a.e.
But that's not our current definition of `rnDeriv`. That choice would be `µ.rnDeriv (µ + ν) / ν.rnDeriv (µ + ν)`. I think it requires a sigma-finite assumption to have good properties though (from memory: I don't recall exactly why, but I tried it and there was that issue).
Using that better R-N derivative in Mathlib is something I want to investigate.

**Comment by EtienneC30** [comment]
Thanks!
maintainer merge

File: Mathlib/InformationTheory/KullbackLeibler/Basic.lean [hunk 7]
```diff
@@ -0,0 +1,238 @@
...
+
+open scoped ENNReal
+
+namespace InformationTheory
+
+variable {α : Type*} {mα : MeasurableSpace α} {μ ν : Measure α}
+
+open Classical in
+/-- Kullback-Leibler divergence between two measures. -/
+noncomputable def kl (μ ν : Measure α) : ℝ≥0∞ :=
```
Comment (sgouezel) [inline Mathlib/InformationTheory/KullbackLeibler/Basic.lean:53]: Maybe
```suggestion
noncomputable irreducible_def kl (μ ν : Measure α) : ℝ≥0∞ :=
```
as the definition is a little bit complicated and one should never want the kernel to unfold it.

File: Mathlib/InformationTheory/KullbackLeibler/Basic.lean [hunk 8]
```diff
@@ -0,0 +1,238 @@
...
+import Mathlib.MeasureTheory.Decomposition.IntegralRNDeriv
+
+/-!
+# Kullback-Leibler divergence
+
+The Kullback-Leibler divergence is a measure of the difference between two measures.
+
+## Main definitions
+
+* `kl μ ν`: Kullback-Leibler divergence between two measures, with value in `ℝ≥0∞`,
```
Comment (sgouezel) [inline Mathlib/InformationTheory/KullbackLeibler/Basic.lean:16]: Isn't `kl` a  little bit too cryptic, even if it's in the `InformationTheory` namespace? `kldiv` isn't much longer, and maybe easier to interpret. Your choice.

**Review by sgouezel — COMMENTED** [review]
bors d+
Thanks!

File: Mathlib/InformationTheory/KullbackLeibler/Basic.lean (hunk 8 above)
Comment (RemyDegenne) [reply Mathlib/InformationTheory/KullbackLeibler/Basic.lean]: `kldiv` or `klDiv`? I am unsure about the naming convention here.

Comment (sgouezel) [reply Mathlib/InformationTheory/KullbackLeibler/Basic.lean]: I think the naming convention is `kldiv` (if a name would start with a sequence of capitals, lower case all of them). But you already have `klFun` (and I didn't complain at the time), so I'd say `klDiv` would also be fine: morally, it's `KlDiv`, and you lower case the `k`. For coherence with `klFun`, I'd say `klDiv`.

Comment (EtienneC30) [reply Mathlib/InformationTheory/KullbackLeibler/Basic.lean]: I think it should be `klDiv`. The extended name would be`kullbackLeiblerDivergence`, and `kullbackLeibler` is shortened to a one-block `kl`, but `Div` is another block so there should be an uppercase.

**Comment by RemyDegenne** [comment]
Thanks for the reviews!
bors r+

File: Mathlib/InformationTheory/KullbackLeibler/Basic.lean (hunk 8 above)
Comment (EtienneC30) [reply Mathlib/InformationTheory/KullbackLeibler/Basic.lean]: Ah when I wrote Sébastien's message was not displayed to me. Anyway I agree on the conclusion.
